US07858640B2
(4-chloro-3-nitrophenoxy)acetic Acid Methyl Ester
A mixture of 4-chloro-3-nitrophenol (25 g), N,N-dimethylformamide (200 mL), potassium carbonate (60 g) and bromoacetic acid methyl ester (15.5 mL) was stirred at room temperature for 2.5 hours. The mixture was partitioned between ethyl acetate and water and the aqueous phase extracted with ethyl acetate. The combined extracts were dried over sodium sulfate and the solvent removed under reduced pressure. The residue was washed with diethyl ether to afford title compound as a white solid, 30 g.

reactant | 4-chloro-3-nitrophenol | 25 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 15.5 mL | COC(CBr)=O | C3H5BrO2
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | (4-chloro-3-nitrophenoxy)acetic Acid Methyl Ester | COC(COC1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C9H8ClNO5
